US08212045B2
Concentrated sulfuric acid (8 mL) was added to 3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile (2.03 g, 6.07 mmol). The reaction was stirred overnight, then poured onto ice (100 g), cooled in an ice batch and made basic to pH 10 with 50% NaOH. The reaction was extracted with ethyl acetate, washed with brine, dried (MgSO4), and concentrated to afford 3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinoamide (2.02 g, 5.73 mmol, 94.4% yield) as a white solid.

reactant | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile | 6.07 mmol, 2.03 g | CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C#N)C | C18H14N4OS
reactant | NaOH | [OH-].[Na+]
product | 3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinoamide | 5.73 mmol, 2.02 g, 94.4% yield | CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C(=O)N)C | C18H16N4O2S
